US07932250B2
8-(2-Chloro-4-nitrophenyl)-1,4-dioxa-8-azaspiro[4.5]decane
The title compound 3.05 g (quantitative) was obtained in a manner similar to the Manufacturing Example 25 by use of 3,4-dichloronitrobenzene and 1,4-dioxa-8-azaspiro[4.5]decane, instead of 3,4-difluoronitorobenzene and N-methylpiperazine, respectively.

reactant | 3,4-dichloronitrobenzene | ClC=1C=C(C=CC1Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | 1,4-dioxa-8-azaspiro[4.5]decane | O1CCOC12CCNCC2 | C7H13NO2
product | 8-(2-Chloro-4-nitrophenyl)-1,4-dioxa-8-azaspiro[4.5]decane | 3.05 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])N1CCC2(OCCO2)CC1 | C13H15ClN2O4
